US05786379
(b) Preparation of methyl 4-[3-(1-adamantyl)-4-methoxyphenylsulfinylmethyl]benzoate
844 mg (2 mmol) of methyl 4-[3-(1-adamantyl)-4-methoxyphenylthiomethyl]benzoate and 20 ml of dichloromethane were introduced into a round-bottomed flask and 386 mg (1.9 mmol) of meta-chloroperbenzoic acid were added. The reaction medium was stirred at room temperature for two hours and was then poured into water and extracted with dichloromethane. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on a column of silica, eluted with a mixture of dichloromethane and ethyl ether (90/10). After evaporation of the solvents, 270 mg (30%) of the expected ester, having a melting point of 121°-2° C., were recovered.

reactant | methyl 4-[3-(1-adamantyl)-4-methoxyphenylthiomethyl]benzoate | 2 mmol, 844 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)SCC2=CC=C(C(=O)OC)C=C2 | C26H30O3S
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | meta-chloroperbenzoic acid | 1.9 mmol, 386 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | water | O | H2O
product | methyl 4-[3-(1-adamantyl)-4-methoxyphenylsulfinylmethyl]benzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)S(=O)CC2=CC=C(C(=O)OC)C=C2 | C26H30O4S
